US05017576
Anhydrous potassium carbonate (2.2 g) is added to a stirred suspension of 2-(4-methylphenyl)-5-trifluoromethyl-4-quinolone (2.4 g) and 4-(2-chloroacetyl)morpholine (1.3 g) in 2-butanone (50 cc). The mixture is heated to reflux for 3 hours and cooled to room temperature (approximately 20° C.). The insoluble matter is removed by filtration and rinsed with 2-butanone. The organic phases are combined and the solvent is removed under reduced pressure. After recrystallation of the residue from acetonitrile, 4-{[2(4-methylphenyl)-5-trifluoromethyl-4-quinolyl]oxyacetyl}morpholine (2.6 g), m.p. 172° C. is isolated.

reactant | potassium carbonate | 2.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(4-methylphenyl)-5-trifluoromethyl-4-quinolone | 2.4 g | CC1=CC=C(C=C1)C1=NC2=CC=CC(=C2C(C1)=O)C(F)(F)F | C17H12F3NO
reactant | 4-(2-chloroacetyl)morpholine | 1.3 g | ClCC(=O)N1CCOCC1 | C6H10ClNO2
solvent | 2-butanone | 50 cc | CC(CC)=O | C4H8O
product | 4-{[2(4-methylphenyl)-5-trifluoromethyl-4-quinolyl]oxyacetyl}morpholine | 2.6 g | CC1=CC=C(C=C1)C1=NC2=CC=CC(=C2C(=C1)OCC(=O)N1CCOCC1)C(F)(F)F | C23H21F3N2O3
